US07498337B2
5-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)pyridine-2-carbonitrile hydrochloride
Under an argon atmosphere, a mixture of tert-butyl{[1-(6-chloro-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate (100 mg), zinc (II) cyanide (51 mg), tetrakis(triphenylphosphine)palladium (50 mg) and N,N-dimethylformamide (4 mL) was stirred at 100° C. for 2 hr. The reaction mixture was diluted with ethyl acetate, washed successively with a saturated aqueous sodium hydrogencarbonate solution, water and saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→7:3) to give an oil. The obtained oil was dissolved in ethyl acetate (2 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added. After stirring at room temperature for 1 hr, the solvent was evaporated under reduced pressure, and the residue was crystallized from ethanol to give the title compound (yield 57 mg, 68%).

reactant | tert-butyl{[1-(6-chloro-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate | 100 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC(=CC1)Cl)=O | C22H24ClN3O4S
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc (II) cyanide | 51 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)pyridine-2-carbonitrile hydrochloride | yield 57 mg, 68% | Cl.CNCC=1C=C(N(C1)S(=O)(=O)C=1C=CC(=NC1)C#N)C1=CC=CC=C1 | InChI=1S/C18H16N4O2S.ClH/c1-20-11-14-9-18(15-5-3-2-4-6-15)22(13-14)25(23,24)17-8-7-16(10-19)21-12-17;/h2-9,12-13,20H,11H2,1H3;1H
